US05543267
4-(6-methacryloyloxyhexyloxy)-benzoic acid-4-n-butoxyphenyl ester
6.1 g of 4-(6-methacryloyloxyhexyloxy)benzoic acid were converted to the acid chloride in a manner similar to example 6. This substance was taken up in 100 ml of tetrahydrofuran (THF) and added dropwise at 0° to 5° C. to a stirred solution of 3.3 g of hydroquinone monobutyl ether in 100 ml of THF and 4 ml of triethylamine. The mixture was stirred for a further 3 hours at room temperature and the triethylamine hydrochloride was then filtered out. The filtrate was evaporated to dryness and the residue dissolved in 50 ml of dichloromethane. The solution was washed several times with water, dried with sodium sulphate and the solvent then distilled off. The crude product so obtained was purified by column chromatography and recrystallisation from n-hexane.

reactant | 4-(6-methacryloyloxyhexyloxy)benzoic acid | 6.1 g | C(C(=C)C)(=O)OCCCCCCOC1=CC=C(C(=O)O)C=C1 | C17H22O5
reactant | hydroquinone monobutyl ether | 3.3 g | C(CCC)OC1=CC=C(O)C=C1 | C10H14O2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | THF | 100 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
product | 4-(6-methacryloyloxyhexyloxy)-benzoic acid-4-n-butoxyphenyl ester | C(CCC)OC1=CC=C(C=C1)OC(C1=CC=C(C=C1)OCCCCCCOC(C(=C)C)=O)=O | C27H34O6
